US05438145
N-trityl-2-aminoethanol
A mixture of isopropanol (750 ml), diethylamine (75 ml), ethanolamine (98%, 62.3 g, 1 mole) and triphenylchloromethane (97%, 143.7 g, 0.50 moles) was stirred at room temperature for 3 hours. The resulting solution was then poured into ice-cold water (4 l) under continuous stirring and the resulting precipitate was filtered off and dried. The crude product was digested in toluene (340 ml), then filtered off and dried in vacuo at 60° C. Thus 130 g (85%) of the pure desired compound were obtained.

reactant | diethylamine | 75 ml | C(C)NCC | C4H11N
reactant | ethanolamine | 1 mole, 62.3 g | C(O)CN | C2H7NO
reactant | triphenylchloromethane | 0.50 moles, 143.7 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | isopropanol | 750 ml | C(C)(C)O | C3H8O
product | N-trityl-2-aminoethanol | 130 g, 85% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
